US04009181
A stirred mixture of 2.0 g. of N1 -p-chlorophenyl-N1 -benzoylhydrazine, 1.1 g. of cyclohexanone-3-carboxylic acid, 5 ml. of glacial acetic acid and 7 ml. of cyclohexane were heated under an atmosphere of nitrogen. After 3 hours of stirring at reflux, the reaction mixture was concentrated under reduced pressure and 10 ml. of ethanol was added to the residue. After standing overnight in the refrigerator, the insoluble portion was removed by filtration, washed with a small amount of cold ethanol and dried, yielding 0.4 g. of product, m.p. 196°-197° . Following a recrystallization from ethanol, 0.2 g. of 9-benzoyl-6-chloro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid was obtained, m.p. 207°-208°.

reactant | N1 -p-chlorophenyl-N1 -benzoylhydrazine | ClC1=CC=C(C=C1)N(N)C(C1=CC=CC=C1)=O | C13H11ClN2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 9-benzoyl-6-chloro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid | C(C1=CC=CC=C1)(=O)N1C2=CC=C(C=C2C=2CCC(CC12)C(=O)O)Cl | C20H16ClNO3
